US08084448B2
C. (R)-4-[2-(2-Ethoxycarbonylphenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic Acid Tert-butyl Ester
To a suspension of (2-ethoxycarbonylbenzyl)-triphenylphosphonium bromide (9.0 g, 17.77 mmol) in toluene (100 mL) is added potassium bis(trimethylsilyl)amide (0.5M in toluene, 40 mL) followed by the addition of (S)-4-formyl-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (3.4 g, 14.83 mmol) and the mixture is refluxed for 1 h. After cooling to RT, ice/water is added and the solution extracted with EtOAc. The organic layer is washed with brine, dried over MgSO4, filtered and concentrated. The crude material is purified by column chromatography to afford the title compound as a yellow oil: (M+1)+=376.

reactant | (2-ethoxycarbonylbenzyl)-triphenylphosphonium bromide | 17.77 mmol, 9.0 g | [Br-].C(C)OC(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | potassium bis(trimethylsilyl)amide | 0.5M, 40 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (S)-4-formyl-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 14.83 mmol, 3.4 g | C(C)(C)(C)OC(=O)N1C(OC[C@H]1C=O)(C)C | C11H19NO4
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-[2-(2-Ethoxycarbonylphenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1C(OC[C@H]1C=CC1=C(C=CC=C1)C(=O)OCC)(C)C | C21H29NO5
